US06429229B1
Mono-ornithine Keto-butyrate
To a solution of ornithine (1.1 N in H2O, 9.1 ml, 10 mmoles) there is added α-keto-glutaric acid (1.02 g, 10 mmoles). 190 ml of acetone is added, it is chilled, filtered, rinsed with acetone and dried under vacuum.

reactant | ornithine | 10 mmoles, 1.1 N, 9.1 ml | N[C@@H](CCCN)C(=O)O | C5H12N2O2
reactant | α-keto-glutaric acid | 10 mmoles, 1.02 g | O=C(C(=O)O)CCC(=O)O | C5H6O5
solvent | acetone | 190 ml | CC(=O)C | C3H6O
product | Mono-ornithine Keto-butyrate | O=C(C(=O)O)CC.N[C@@H](CCCN)C(=O)O | InChI=1S/C5H12N2O2.C4H6O3/c6-3-1-2-4(7)5(8)9;1-2-3(5)4(6)7/h4H,1-3,6-7H2,(H,8,9);2H2,1H3,(H,6,7)/t4-;/m0./s1
